US07951819B2
2-Chloro-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl) isonicotinamide (CJS 3731)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 2-chloroisonicotinoyl chloride to afford the title compound (39 mg, 49%). 1H-NMR (δ, ppm, DMSO-d6): 6.50 (d, 1H, HPy,5, J=6.0 Hz), 6.96 (d, 1H, Harom, J=8.0 Hz), 7.45 (t, 1H, Harom, J=8.0 Hz), 7.59 (t, 1H, Harom, J=2.0 Hz), 7.64 (d, 1H, Harom, J=8.0 Hz), 7.82 (d, 1H, HPy,6, J=6.0 Hz), 7.85 (d, 1H, Harom, J=5.0 Hz), 7.97 (s, 1H, Harom), 7.61 (d, 1H, Harom, J=5.0 Hz), 10.66 (s, 1H, NHamide), 11.21 (s, 1H, NHPy3), 11.42 (s, 1H, NHPy2). HRMS (EI): m/z [M+H] calcd for C18H13N5O3Cl: 382.0707; found: 382.0702.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 2-chloroisonicotinoyl chloride | ClC=1C=C(C(=O)Cl)C=CN1 | C6H3Cl2NO
product | 2-Chloro-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl) isonicotinamide | 39 mg, 49% | ClC=1C=C(C(=O)NC2=CC(=CC=C2)OC2=C3C(=NC=C2)NC(N3)=O)C=CN1 | C18H12ClN5O3
